US09427475B2
Step C: 6-({2-[(α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy]ethyl}amino)-6-oxohexanoic acid
A mixture of benzyl 6-({2-[(α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy]ethyl}amino)-6-oxohexanoate (1.15 g, 1.502 mmol) and Pd/C (80 mg, 0.075 mmol) in water (10 mL) was allowed to stir under a balloon of H2 at room temperature for 16 hr. The catalyst was filtered off and washed with H2O (3×10 mL). The filtrate was concentrated to give the title compound. UPLC Method B: calculated for C26H45NO19 675.26, observed m/e: 676.21 [M+1]; Rt=3.50 min.

reactant | benzyl 6-({2-[(α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy]ethyl}amino)-6-oxohexanoate | 1.502 mmol, 1.15 g | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@H](O[C@@H]([C@H]1O)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCCNC(CCCCC(=O)OCC1=CC=CC=C1)=O)O | C33H51NO19
solvent | water | 10 mL | O | H2O
catalyst | Pd/C | 0.075 mmol, 80 mg | [Pd] | Pd
product | 6-({2-[(α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl)oxy]ethyl}amino)-6-oxohexanoic acid | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@H](O[C@@H]([C@H]1O)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OCCNC(CCCCC(=O)O)=O)O | C26H45NO19
